US08404672B2
To a solution of tert-butyl azetidine-3-carboxylate acetic acid salt (92.0 g, 0.423 mol) in methanol (1.0 L) at room temperature was added 4-formylbenzonitrile (50.8 g, 0.381 mol). The reaction mixture was cooled to 0° C., and sodium cyanoborohydride (28.8 g, 0.458 mol) was added portion-wise (caution: potential cyanide generation). The reaction mixture was allowed to warm to room temperature and was stirred overnight. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with a 10% aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic layer was collected, washed with brine, and dried over anhydrous sodium sulfate. Concentration under reduced pressure followed by purification by silica gel chromatography using a 20% mixture of ethyl acetate in petroleum ether afforded tert-butyl 1-(4-cyanobenzyl)azetidine-3-carboxylate (89%) (After chromatography, Int. 1-D contained a small amount of 4-hydroxymethylbenzonitrile but was taken forward to the next step without further purification). LC/MS M+1=273.18. 1H NMR (400 MHz, CDCl3) δ ppm 1.46 (s, 9H), 3.22-3.31 (m, 3H), 3.48-3.56 (m, 2H), 3.66 (s, 2H), 7.39 (d, J=8.28 Hz, 2H), and 7.60 (d, J=8.28 Hz, 2H).

reactant | tert-butyl azetidine-3-carboxylate acetic acid salt | 0.423 mol, 92.0 g | C(C)(=O)O.N1CC(C1)C(=O)OC(C)(C)C
reactant | 4-formylbenzonitrile | 0.381 mol, 50.8 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | sodium cyanoborohydride | 0.458 mol, 28.8 g | C(#N)[BH3-].[Na+]
reactant | cyanide | [C-]#N
solvent | methanol | 1.0 L | CO | CH4O
product | tert-butyl 1-(4-cyanobenzyl)azetidine-3-carboxylate | 89% | C(#N)C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C16H20N2O2
